US05817851
The procedure was analogous to Example 6. 26.6 g (0.096 mol) of tin(II) bromide and 9.6 g (0.096 mol) of acetylacetone were reacted with 7.6 g (0.096 mol) of acetyl chloride in 200 ml of diethyl ether and the reaction solution was concentrated to give 36.4 g (96% of theory) of 1-methylbut-1-en-3-onyltin dibromide chloride (Br2 ClSn--C(CH3)=CH--CO--CH3) melting at 112°-115° C.

reactant | tin(II) bromide | 0.096 mol, 26.6 g | [Sn](Br)Br
reactant | acetylacetone | 0.096 mol, 9.6 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | acetyl chloride | 0.096 mol, 7.6 g | C(C)(=O)Cl | C2H3ClO
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 1-methylbut-1-en-3-onyltin dibromide chloride | 36.4 g, 96% | CC(=CC(C)=O)[Sn](Cl)(Br)Br | InChI=1S/C5H7O.2BrH.ClH.Sn/c1-3-4-5(2)6;;;;/h4H,1-2H3;3*1H;/q;;;;+3/p-3
